US06518423B1
1-(tert-Butoxycarbonyl)-2-methyl-4-methylenepiperidine
6.41 g of 1-benzyl-2-methyl-4-methylenepiperidone was dissolved in 70 ml of dichloroethane and 5.92 g of 1-chloroethyl chloroformate was added thereto under ice-cooling. After heating the mixture under reflux for 50 minutes, 100 ml of methanol was added thereto and the resulting mixture was allowed to stand at room temperature overnight. Then triethylamine was added to the reaction mixture under ice-cooling until the pH value reached 9. Further, 7.64 g of tert-butyl dicarbonate was added thereto and the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, diluted with ethyl acetate, washed successively with water, 1 N hydrochloric acid, a saturated aqueous solution of sodium chloride and a saturated aqueous solution of sodium bicarbonate and dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 7.2 g of the title compound as a colorless oily substance.

reactant | 1-chloroethyl chloroformate | 5.92 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | methanol | 100 ml | CO | CH4O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | tert-butyl dicarbonate | 7.64 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
solvent | dichloroethane | 70 ml | ClC(C)Cl | C2H4Cl2
product | 1-(tert-Butoxycarbonyl)-2-methyl-4-methylenepiperidine | 7.2 g | C(C)(C)(C)OC(=O)N1C(CC(CC1)=C)C | C12H21NO2
